US05935990
To a solution of 2-furaldehyde (4.15 ml, 50 mmol) and 4-fluoroacetophenone (6.16 ml, 50 mmol) in methanol (200 ml), sodium methoxide (2.85 g, 50 mmol) was added. After stirring at room temperature for 18 hours, the reaction mixture was concentrated, resuspended in ethyl acetate (600 ml) and diluted with water. The organic layer was separated, washed with brine, dried (MgSO4), filtered and concentrated. The crude solid (10.27 g) was purified by chromatography (silica gel, hexane/ethyl acetate, 7/3) to give 1-(4-fluorophenyl)-3-(2-furanyl)propan-1-one (8.9 g, 95%) as a white solid: mp (DSC) 72° C. Anal Calc'd. for C13H10FO: C, 72.22; H, 4.20. Found: C, 72.18; H, 4.38.

reactant | 2-furaldehyde | 50 mmol, 4.15 ml | O1C(=CC=C1)C=O | C5H4O2
reactant | 4-fluoroacetophenone | 50 mmol, 6.16 ml | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | sodium methoxide | 50 mmol, 2.85 g | C[O-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 1-(4-fluorophenyl)-3-(2-furanyl)propan-1-one | 8.9 g, 95% | FC1=CC=C(C=C1)C(CCC=1OC=CC1)=O | C13H11FO2
